US09403850B2
Step 1. Synthesis of 5-bromo-2,3-dimethyl-pyridine
To a stirred solution of 2,3-dimethyl-pyridine (6.79 mL, 60 mmol) in fuming sulfuric acid (80 mL) held at 150° C. in a round bottom flask fitted with a water cooled reflux condenser and a calcium chloride filled drying tube, was added, dropwise, bromine (3.1 mL, 60 mmol) over 2 hr. The resulting dark red solution was stirred for 16 hr then cooled to room temperature and allowed to stand overnight. This mixture was poured into approximately 400 g of ice. This mixture was brought to pH 12 with cooling in an ice bath. The resulting mixture was extracted with ether and the ether extract washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica chromatography (50 g silica, eluted with 2-20% ethyl acetate in hexanes) to give the title compound (8.3 g) as a colorless oil.

reactant | 2,3-dimethyl-pyridine | 60 mmol, 6.79 mL | CC1=NC=CC=C1C | C7H9N
reactant | water | O | H2O
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | bromine | 60 mmol, 3.1 mL | BrBr | Br2
solvent | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-2,3-dimethyl-pyridine | 8.3 g | BrC=1C=C(C(=NC1)C)C | C7H8BrN
